US08247403B2
(2) 1-[2-(2,3,4,5-tetrahydro-1,4-benzoxazepine-9-yl)phenyl]ethanone hydrochloride
A mixture of tert-butyl 9-(2-acetylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (190 mg, 0.517 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (132 mg, 84.1%) as a solid.

reactant | tert-butyl 9-(2-acetylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.517 mmol, 190 mg | C(C)(=O)C1=C(C=CC=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C22H25NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(2,3,4,5-tetrahydro-1,4-benzoxazepine-9-yl)phenyl]ethanone hydrochloride | 132 mg, 84.1% | Cl.O1CCNCC2=C1C(=CC=C2)C2=C(C=CC=C2)C(C)=O | InChI=1S/C17H17NO2.ClH/c1-12(19)14-6-2-3-7-15(14)16-8-4-5-13-11-18-9-10-20-17(13)16;/h2-8,18H,9-11H2,1H3;1H
